data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c01130.json
{"doi": "10.1021_acs.orglett.3c01130", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical metal-free 1,1-difunctionalization of gem-difluoroalkenes with two nucleophiles (alcohols/H2O and azoles) to give alpha-difluoro(alkoxyl/azolated) methylated ethers", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of the aryl gem-difluoroalkene to a radical cation; cathode reduces protons to H2 (no sacrificial oxidant needed)", "key_intermediates": [{"name": "aryl gem-difluoroalkene radical cation (I)", "smiles": null, "role": "reactive"}, {"name": "alpha-alkoxy/azolyl benzyl radical (II) after Nu1H addition, deprotonation and intramolecular electron shift", "smiles": null, "role": "reactive"}, {"name": "alpha-alkoxy/azolyl benzyl carbocation (III) from second anodic SET", "smiles": null, "role": "reactive"}, {"name": "difunctionalized CF2 product (4)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes the gem-difluoroalkene to a radical cation, which is attacked by Nu1-H; loss of a proton and intramolecular electron shift gives a benzyl radical, which is further oxidized at the anode to a benzyl carbocation that is trapped by Nu2-H. Protons released are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "controlled-potential electrolysis at sub-oxidation potentials (1.25 V vs SCE, below 1.30 V onset)", "smiles": null, "purpose": "redox_probe", "observation": "no product at 1.25 V; 15% yield at 1.35 V, confirming need for anodic oxidation of the alkene"}, {"name": "1H-imidazole / O2 trap (radical capture as hydroperoxide)", "smiles": "c1cnc[nH]1", "purpose": "radical_trap", "observation": "alpha-imidazolyl benzyl hydroperoxide/alcohol detected by GC-MS (23%), supporting a benzyl radical intermediate"}, {"name": "biphenyl-type homo-coupling product observed", "smiles": null, "purpose": "intermediate_trap", "observation": "detection of (alpha-functionalized)-biphenyl species by GC-MS, consistent with benzyl radical II"}], "evidence_types_used": ["redox_probe", "intermediate_trap_other", "DFT", "cyclic_voltammetry", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "DFT shows HOMO of the aryl gem-difluoroalkene is delocalized over the whole molecule (not just the olefin), rationalizing anodic SET. Mechanism is proposed as radical-cation / radical-polar crossover with two sequential anodic SET events; cathodic H2 evolution removes the need for a chemical oxidant. No KIE or TEMPO-trap experiments reported."}
